US08623889B2
N-(7-(phenylthio)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (145 mg, 0.5 mmol), benzenethiol (55 mg, 0.50 mmol), 1,1′-bis(diphenylphosphino)ferrocene (41.8 mg, 0.10 mmol), palladium(II) acetate (22.4 mg, 0.10 mmol) and sodium tert-butoxide (96 mg, 1.0 mmol) in dioxane (15 mL) were stirred at 100° C. overnight under nitrogen. The mixture was diluted with methanol and filtered through a pad of Celite. The pad was washed with methanol. The combined filtrates were concentrated to dryness and purify by Prep-HPLC to give the product (42.5 mg, 26%). LCMS (ESI): RT (min)=1.202, M+H+=320.9, method=A. 1H NMR (400 MHz, DMSO-d6) δ 10.93 (s, 1H), 9.06 (s, 1H), 8.41 (s, 1H), 8.02 (t, J=0.8 Hz, 1H), 7.84 (d, J=8.8 Hz, 1H), 7.53 (dd, J=1.6, 8.4 Hz, 1H), 7.38-7.31 (m, 5H), 2.09-1.99 (m, 1H), 0.83-0.79 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.5 mmol, 145 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | benzenethiol | 0.50 mmol, 55 mg | C1(=CC=CC=C1)S | C6H6S
reactant | sodium tert-butoxide | 1.0 mmol, 96 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.10 mmol, 41.8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 0.10 mmol, 22.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(7-(phenylthio)isoquinolin-3-yl)cyclopropanecarboxamide | 42.5 mg, 26% | C1(=CC=CC=C1)SC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C19H16N2OS
